global 0
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice/deps/JART-memristor-models/JART_VCM_v1b.va"
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice/deps/JART-memristor-models/nmos.va" 
simulatorOptions options vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12
trans tran stop=7000n errpreset=conservative maxstep =10n
saveOptions options save=all currents=all
save SINGLE.I0:OE SINGLE.I0:AE
parameters Reset_V = 0.75, Set_V = -1.05, Read_V =  0.2

subckt memristor_1T1M MemInput Output TransGate inh_bulk_n
    I0 (net03 MemInput) JART_VCM_1b_det T0=0.293 eps=17 epsphib=5.5 \
        phiBn0=0.18 phin=0.1 un=4e-06 Ndiscmax=20 Ndiscmin=0.008 \
        Ninit=0.008 Nplug=20 a=2.5e-10 ny0=2e+13 dWa=1.35 Rth0=1.572e+07 \
        rdet=4.5e-08 lcell=3 ldet=0.4 Rtheff_scaling=0.27 RseriesTiOx=650 \
        R0=719.244 Rthline=90471.5 alphaline=0.00392
    M0 (net03 TransGate Output inh_bulk_n) nmos
ends memristor_1T1M

subckt my_ckt r0 c0
I0 (r0 c0) JART_VCM_1b_det T0 = 0.293 eps = 17 epsphib = 5.5 phiBn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = 20 Ndiscmin = 0.008 Ninit = 0.008 Nplug = 20 a = 2.5e-10 ny0 = 20000000000000.0 dWa = 1.35 Rth0 = 10000000.0 rdet = 4.5e-08 lcell = 3 ldet = 0.4 Rtheff_scaling = 0.27 RseriesTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 
ends my_ckt
SINGLE (r0 c0) my_ckt

V0 (r0 0) vsource type=pwl wave=[\
0n	0	\
999n	0	\
1000n	Read_V	\
1999n	Read_V	\
2000n	0	\
2999n	0	\
3000n	Set_V	\
3999n	Set_V	\
4000n	0	\
4999n	0	\
5000n	Read_V	\
5999n	Read_V	\
6000n	0	\
6999n	0	\
7000n	Reset_V	\
7999n	0.75	\
8000n	0	\
8999n	0	\
9000n	Read_V	\
9999n	Read_V	\
10000n	0	\
10999n	0	\
]
V1 (c0  0) vsource dc=0

